Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
MVC
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ with a history of migraines and chronic low back pain 
requiring L5-S1 injections on gabapentin who is s/p MVC lateral 
impact into the driver's side door. The patient states there was 
LOC unsure the duration of the LOC. He self extricated and was 
ambulatory at the scene. He was brought in by taxi and walked
into the ED. He was initially confused and amnestic to the event 
on presentation to the ED. He states that he was having R 
shoulder pain (at the site of prior R shoulder surgery) and low 
back pain with decreased RLE and RUE ROM secondary to pain. 
 
Past Medical History:
PMH: depression/anxiety, low back pain,
migraines, asthma  
PSHx: R shoulder surgery
 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
VS: 98.6 78 139/65 
Gen: Well appearing, in no acute distress
CV: RRR
Pulm: CTAB
GI: Soft, NTND
LUE 5+ strength LLE 5+ strength
RUE: decreased ROM ___ shoulder pain 4+ strength
RLE: decreased ROM ___ low back pain. decreased sensation distal 
R leg. 4+ strength 
 
Pertinent Results:
___ 05:41AM BLOOD WBC-13.2* RBC-5.23 Hgb-15.1 Hct-45.1 
MCV-86 MCH-28.9 MCHC-33.5 RDW-13.8 RDWSD-43.1 Plt ___
___ 05:40PM BLOOD WBC-14.0* RBC-5.83 Hgb-16.9 Hct-49.9 
MCV-86 MCH-29.0 MCHC-33.9 RDW-13.8 RDWSD-42.3 Plt ___
___ 05:41AM BLOOD Plt ___
___ 05:40PM BLOOD Plt ___
___ 05:40PM BLOOD ___ PTT-30.6 ___
___ 05:41AM BLOOD Glucose-95 UreaN-12 Creat-1.0 Na-139 
K-4.1 Cl-106 HCO3-28 AnGap-9
___ 05:40PM BLOOD Glucose-107* UreaN-18 Creat-1.3* Na-140 
K-4.2 Cl-103 HCO3-24 AnGap-17
___ 05:40PM BLOOD ALT-32 AST-21 AlkPhos-61 TotBili-0.4

IMAGING: 

Right shoulder ___

IMPRESSION: 
 
Normal right shoulder radiographs.

CT head w/o contrast (___)

IMPRESSION: 
 
No acute intracranial abnormality.

CT ___

IMPRESSION: 
 
Chronic T1 spinous process fracture.  No acute fracture.  No 
evidence of
subluxation.

CT L-spine (___)

IMPRESSION: 
 
No acute fracture, malalignment, or prevertebral soft tissue 
abnormality
identified.  Please note, however, that MR is more sensitive in 
the detection
of spinal canal abnormality.

CT T-spine (___)

IMPRESSION:
 
1. No acute fracture, malalignment, or prevertebral soft tissue 
abnormality.
2. Chronic fracture of the spinous process of the T1 vertebral 
body.

MRI C-L spine (___)

IMPRESSION:
 
 
1. Substantially motion limited study.
2. Within the limitations of this study, no definite cord signal 
abnormalities
detected.  There is no cord compression.  No evidence of 
ligamentous injury.
3. Multilevel degenerative disc disease in the cervical and 
lumbar spine
without critical spinal canal stenosis.  Several levels of mild 
neuroforaminal
stenosis as described above.
4. Small bilateral perineural cysts at L3-L4 contact the exiting 
L3 nerve
roots bilaterally, often of no clinical significance.
 
Brief Hospital Course:
Ms. ___ presented after a motor vehicle collision. She was 
not found to have any injuries on initial CT imaging but 
continued to complain of persistent RUE and RLE parasthesias and 
weakness so she was kept in a ___ collar until an MRI was 
performed which did not show any evidence of spinal cord injury. 
So, she was discharged home with instructions to follow up with 
orthopedic surgery in 2 weeks as an outpatient. 
 
Medications on Admission:
Medications - Prescription
BUPROPION HCL [WELLBUTRIN] - Dosage uncertain - (Prescribed by
Other Provider)
GABAPENTIN - gabapentin 600 mg tablet. 2 tablet(s) by mouth 
three
times a day - (Prescribed by Other Provider)
LAMOTRIGINE [LAMICTAL] - Dosage uncertain - (Prescribed by Other
Provider)
PROPRANOLOL - propranolol 20 mg tablet. 1 tablet(s) by mouth
daily as needed for anxiety - (Prescribed by Other Provider)
QUETIAPINE [SEROQUEL] - Dosage uncertain - (Prescribed by Other
Provider)
 
Discharge Medications:
1. BuPROPion (Sustained Release) 150 mg PO BID 
2. Gabapentin 1200 mg PO TID 
3. HYDROmorphone (Dilaudid) ___ mg PO Q3H:PRN PAIN 
RX *hydromorphone 2 mg ___ tablet(s) by mouth q3 Disp #*45 
Tablet Refills:*0
4. Baclofen 10 mg PO TID 
RX *baclofen 10 mg 1 tablet(s) by mouth three times a day Disp 
#*90 Tablet Refills:*0
5. Propranolol 20 mg PO/NG Q8H:PRN anxiety  
6. QUEtiapine Fumarate 100 mg PO QHS 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Right upper and lower extremity weakness with no injury
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear ___

___ were admitted to ___ after a car accident. ___ were found 
to have no injuries upon Physical Examination and Imaging and 
are being discharged home. 

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
___ experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If ___ are vomiting and cannot keep down fluids or your 
medications.
___ are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
___ see blood or dark/black material when ___ vomit or have a 
bowel movement.
___ experience burning when ___ urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
___ have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
___.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until ___ follow-up with your 
surgeon.
Avoid driving or operating heavy machinery while taking pain 
medications.

 
Followup Instructions:
___